US05128355
Part B: Preparation of 3-Carboethoxy-4-(4-methyl-phenyl)-4-(oxo)butanal
Ethyl 3-(4-methylphenyl)-3-oxo-2-(allyl)-propanoate (74.21 g, 301 mmol, 1.0 eq), osmium tetroxide (100 mg, cat.), sodium metaperiodate (141.8 g, 663 mmol, 2.2 eq), ether (500 mL) and water (1 L) were mixed and stirred at room temperature. After 24 hours, an additional 100 mg of OsO4 was added and after another 24 hours, 200 mg more of OsO4 was added together with sodium metaperiodate (190 g, 888 mmol, 3.0 eq). After 4 days, the layers were separated and the ether layer washed with aqueous sodium bisulfite (1×500 mL) followed by brine (1×300 mL). The ether layer was dried (MgSO4) and the solvent removed in vacuo to yield 64.99 g of a dark brown oil. This oil was flash chromatographed over silica gel in 4:1 hexane/ethyl acetate to yield 37.5 g of an amber oil. NMR (200 MH, CDCl3 ) δ 9.79 (s, 1H); 7.93 (d, 2H, J=9Hz); 7.27 (d, 2H, J=9Hz); 4.87 (t, 1H, J=7Hz); 4.13 (q, 2, J=7Hz); 3.37-3.08 (AB multiplet, 2H); 2.40 (s, 3H); 1.14 (t, 3H, J=7Hz). Anal. Calcd. for C14H16O4 : C, δ.73; H, 6.50. Found: C, δ.53; H, 6.54.

reactant | Ethyl 3-(4-methylphenyl)-3-oxo-2-(allyl)-propanoate | 301 mmol, 74.21 g, 1.0 eq | CC1=CC=C(C=C1)C(C(C(=O)OCC)CC=C)=O | C15H18O3
reactant | sodium metaperiodate | 663 mmol, 141.8 g, 2.2 eq | I(=O)(=O)(=O)[O-].[Na+]
reactant | ether | 500 mL | CCOCC | C4H10O
reactant | sodium metaperiodate | 888 mmol, 190 g, 3.0 eq | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetroxide | 100 mg | [Os](=O)(=O)(=O)=O
catalyst | OsO4 | 100 mg | O=[Os](=O)(=O)=O
solvent | water | 1 L | O | H2O
product | 3-Carboethoxy-4-(4-methyl-phenyl)-4-(oxo)butanal | 64.99 g | C(=O)(OCC)C(CC=O)C(=O)C1=CC=C(C=C1)C | C14H16O4
